US09126931B2
7-Methoxy-1,1-dimethyl-6-(pyrrolidine-1-sulfonyl)-3,4-dihydro-1H-naphthalen-2-one
The THF (4 ml) solution of 3-methoxy-5,5-dimethyl-6-oxo-5,6,7,8-tetrahydro-naphthalen-2-sulfonyl chloride (Compound CC1, 295 mg, 0.974 mmol) was cooled to 0° C., and the tetrafuran (1 ml) solution combining pyrrolidine (121 μl, 1.5 eq.) and triethylamine (272 μl, 2 eq.) was added dropwise thereto over 2 min. The mixture was stirred at 0° C. until Compound CC-1 disappears. The reaction solution was added with distilled water and extracted with ethyl acetate. The organic layer was washed with 10% aqueous solution of disodium ethylenediamine tetraacetic acid. The organic layer was washed with brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (246 mg, 75%).

reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | 3-methoxy-5,5-dimethyl-6-oxo-5,6,7,8-tetrahydro-naphthalen-2-sulfonyl chloride | 0.974 mmol, 295 mg | COC=1C(=CC=2CCC(C(C2C1)(C)C)=O)S(=O)(=O)Cl | C13H15ClO4S
reactant | pyrrolidine | 121 μl, 1.5 eq. | N1CCCC1 | C4H9N
reactant | triethylamine | 272 μl, 2 eq. | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 7-Methoxy-1,1-dimethyl-6-(pyrrolidine-1-sulfonyl)-3,4-dihydro-1H-naphthalen-2-one | 246 mg, 75% | COC1=C(C=C2CCC(C(C2=C1)(C)C)=O)S(=O)(=O)N1CCCC1 | C17H23NO4S
